* C:\Users\Public\Documents\Altium\Projects\digital_power\Simulation\LT6992-1.asc
R1 N003 0 249k
V1 N002 0 3.3
V2 N001 0 PULSE(0 1 5m 1m 1m 1m)
XU1 N001 0 N003 0 N002 PWMout LTC6992-1
R4 PWMout 0 10k
.tran 10m startup
* 1MHz, 100% to 0% Duty Cycle\nSwept Pulse Width Modulated Output\nStartup Modeled
.lib LTC6992-1.sub
.backanno
.end
